US05780482
A mixture of ethyl 4-chloro-6-phenoxy-1,5-naphthyridine-3-carboxylate (3.0 g), 4-methoxyaniline (1.16 g), potassium carbonate (2.65 g) and THF (60 ml) was stirred at ambient temperature for 24 hours. The reaction mixture was worked up as described in Example 2 to give ethyl 4-(4-methoxyanilino)-6-phenoxy-1,5-naphthyridine-3-carboxylate hydrochloride, m.p. 191°-193° C.

reactant | ethyl 4-chloro-6-phenoxy-1,5-naphthyridine-3-carboxylate | 3.0 g | ClC1=C(C=NC2=CC=C(N=C12)OC1=CC=CC=C1)C(=O)OCC | C17H13ClN2O3
reactant | 4-methoxyaniline | 1.16 g | COC1=CC=C(N)C=C1 | C7H9NO
reactant | potassium carbonate | 2.65 g | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | ethyl 4-(4-methoxyanilino)-6-phenoxy-1,5-naphthyridine-3-carboxylate hydrochloride | Cl.COC1=CC=C(NC2=C(C=NC3=CC=C(N=C23)OC2=CC=CC=C2)C(=O)OCC)C=C1 | InChI=1S/C24H21N3O4.ClH/c1-3-30-24(28)19-15-25-20-13-14-21(31-18-7-5-4-6-8-18)27-23(20)22(19)26-16-9-11-17(29-2)12-10-16;/h4-15H,3H2,1-2H3,(H,25,26);1H
